US06949542B2
3-{3-[6-(2-Methoxy-ethylamino)-pyrimidin-4-yl]-phenyl}-3-oxo-propionic acid tert-butyl ester
The title compound was prepared from 3-[6-(2-methoxy-ethylamino)-pyrimidin-4-yl]-benzoic acid methyl ester [prepared by the following procedure: 3-(6-Chloro-pyrimidin-4-yl)-benzoic acid (1.0 g, 4.3 mmol) was heated in 2-methoxy-ethylamine (5 ml) to 80° C. for 1 h. The mixture was evaporated in vacuum and the residual oil was stirred in 1N HCl-MeOH (25 mL) for 18 h at 50° C. The crude product was purified by chromatography (silica gel, AcOEt-hexane 1:1) to give the methyl ester as light yellow solid (0.67 g).] (0.66 g, 2.3 mmol) by treatment with lithium tert-butyl acetate according to general procedure K (method b). Obtained as a light yellow oil (0.93 g, not pure).

reactant | 3-[6-(2-methoxy-ethylamino)-pyrimidin-4-yl]-benzoic acid methyl ester | COC(C1=CC(=CC=C1)C1=NC=NC(=C1)NCCOC)=O | C15H17N3O3
reactant | 3-(6-Chloro-pyrimidin-4-yl)-benzoic acid | 4.3 mmol, 1.0 g | ClC1=CC(=NC=N1)C=1C=C(C(=O)O)C=CC1 | C11H7ClN2O2
solvent | 2-methoxy-ethylamine | 5 ml | COCCN | C3H9NO
product | 3-{3-[6-(2-Methoxy-ethylamino)-pyrimidin-4-yl]-phenyl}-3-oxo-propionic acid tert-butyl ester | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC=NC(=C1)NCCOC)=O | C20H25N3O4
